US04375549
In the manner described in Examples 1-7, diphenyldichlorosilane was reacted with about two moles of methyl 3,5,6-trichloro-2-pyridyl carbonate in the presence of tetrabutylammonium chloride to produce a good yield of diphenyl bis(3,5,6-trichloro-2-pyridyloxy)silane, a crystalline solid.

reactant | diphenyldichlorosilane | C1(=CC=CC=C1)[Si](Cl)(Cl)C1=CC=CC=C1 | C12H10Cl2Si
reactant | methyl 3,5,6-trichloro-2-pyridyl carbonate | about two moles | C(OC)(OC1=NC(=C(C=C1Cl)Cl)Cl)=O | C7H4Cl3NO3
catalyst | tetrabutylammonium chloride | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | diphenyl bis(3,5,6-trichloro-2-pyridyloxy)silane | C1(=CC=CC=C1)[Si](OC1=NC(=C(C=C1Cl)Cl)Cl)(OC1=NC(=C(C=C1Cl)Cl)Cl)C1=CC=CC=C1 | C22H12Cl6N2O2Si
